US04414225
Butyl 3-amino-6-benzyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine-2-carboxylate
A solution of 1.0 gm (0.008 mol) of butyl glycolate in 8 ml of absolute dioxane was added dropwise to a suspension of 0.4 gm (0.008 mol) of 50% sodium hydride in 5 ml of absolute dioxane, and the mixture was stirred for one hour at room temperature. Then, while the mixture was cooled with ice, a solution of 1.0 gm (0.004 mol) of 1-benzyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine in 15 ml of absolute dioxane was added, and the mixture was stirred for one hour. The reaction mixture was then poured into about 80 ml of ice-cold water, and the aqueous mixture was extracted three times with ethyl acetate. The combined organic phases were washed twice with water, dried over sodium sulfate and concentrated by evaporation. The residue was purified by column chromatography on silicagel, using toluene/ethyl acetate (7:3) as eluant.

reactant | butyl glycolate | 0.008 mol, 1.0 gm | C(CO)(=O)OCCCC | C6H12O3
reactant | sodium hydride | 0.008 mol, 0.4 gm | [H-].[Na+]
reactant | 1-benzyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine | 0.004 mol, 1.0 gm | C(C1=CC=CC=C1)N1CCC(=C(CC1)C#N)Cl | C14H15ClN2
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | Butyl 3-amino-6-benzyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine-2-carboxylate | NC1=C(OC=2CCN(CCC21)CC2=CC=CC=C2)C(=O)OCCCC | C20H26N2O3
